US05403512
A solution of 10 g of p-(trans-4-n-propylcyclohexyl)phenol in a mixture of 40 ml of benzene and 10 ml of tetrahydrofuran is reacted with sodium hydride analogously to Example 1. After tetrafluoroethene has been condensed in, the mixture is heated at 140° C. for about 20 hours and treated as described in Example 1. p-(trans-4-n-propylcyclohexyl)trifluorovinyloxybenzene is obtained.

reactant | p-(trans-4-n-propylcyclohexyl)phenol | 10 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C15H22O
reactant | sodium hydride | [H-].[Na+]
reactant | tetrafluoroethene | FC(=C(F)F)F | C2F4
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | p-(trans-4-n-propylcyclohexyl)trifluorovinyloxybenzene | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OC(=C(F)F)F | C17H21F3O
